US09399077B2
To a magnetically stirred solution of 6-(cyclooct-2-yn-1-yloxy)hexan-1-ol (126 mg, 0.566 mmol, 1 eq) in dry THF (1.5 ml) under Ar atmosphere, Imidazole (1.1 eq, 0.622 mmol, 42 mg) and Ph3P (1.3 eq, 0.736 mmol, 193 mg) were added. The solution was cooled to 0° C. and Iodine (0.680 mmol, 1.2 eq, 173 mg) was added in three portions. Solution was warmed to RT and stirred for 4 h. The reaction was monitored by TLC (hexane 100% as eluent), quenched by addition of a saturated solution of Na2SO3 (3 ml) and the phases were separated. The aqueous phase was extracted with Et2O and combined organic layers were dried over Na2SO4, filtered and concentrated under vacuum. The obtained raw product was purified using a column of silica gel (40 g) and Hexane as eluent to obtain 3-[(6-iodohexyl)oxy]cyclooct-1-yne.

reactant | 6-(cyclooct-2-yn-1-yloxy)hexan-1-ol | 0.566 mmol, 126 mg, 1 eq | C1(C#CCCCCC1)OCCCCCCO | C14H24O2
reactant | Imidazole | 0.622 mmol, 42 mg, 1.1 eq | N1C=NC=C1 | C3H4N2
reactant | Ph3P | 0.736 mmol, 193 mg, 1.3 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Iodine | 0.680 mmol, 173 mg, 1.2 eq | II | I2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-[(6-iodohexyl)oxy]cyclooct-1-yne | ICCCCCCOC1C#CCCCCC1 | C14H23IO
